Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p assault
 
Major Surgical or Invasive Procedure:
___: ORIF left mandibular fracture

 
History of Present Illness:
___ who presents after assault. The patient states he was
involved in an altercation this afternoon and was punched in the
face by his ex-girlfriend's son. He presented to the ED with
left-sided jaw pain and was found to have a left mandible
fracture. He was evaluated by ___ who recommended operative
repair. ACS has been consulted for management recommendations.

The patient denies head strike, loss of consciousness,
dizziness/LH, nausea, emesis, change in vision, difficulty
breathing, rhinorrhea, change in voice, cough, or history of
bleeding or easy bruising. 

 
Past Medical History:
Past Medical History:
- HTN
- HLD
- Gout

Past Surgical History: knee replacement 
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Exam:
Vitals: T97.7 HR79 BP141/99 RR16 96% RA 
GEN: A&O, NAD
HEENT: Soft tissue swelling of left jaw and left lower face, CN
II-XII grossly intact, no lacerations, no scleral icterus, mucus
membranes moist, EOMI 
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: 98.0, 138/92, 77, 18, 97 ra
Gen: A&O x3, lying in bed in NAD
HEENT: swelling over left mandibular area
Pulm: LS ctab
CV: HRR
Abd: soft, NT/ND
Ext: WWP no edema
 
 
Pertinent Results:
___ 06:35AM BLOOD WBC-8.6 RBC-4.71 Hgb-13.3* Hct-40.2 
MCV-85 MCH-28.2 MCHC-33.1 RDW-13.7 RDWSD-42.8 Plt ___
___ 01:19AM BLOOD WBC-9.2 RBC-4.70 Hgb-13.4* Hct-39.7* 
MCV-85 MCH-28.5 MCHC-33.8 RDW-13.6 RDWSD-42.2 Plt ___
___ 06:35AM BLOOD Glucose-100 UreaN-15 Creat-0.9 Na-141 
K-4.2 Cl-102 HCO3-26 AnGap-13
___ 01:19AM BLOOD Glucose-103* UreaN-18 Creat-1.0 Na-140 
K-4.4 Cl-100 HCO3-27 AnGap-13
___ 06:35AM BLOOD Calcium-9.0 Phos-3.6 Mg-2.2

CT HEAD ___:
1. No acute intracranial process.

CT C-SPINE ___
1. Minimally displaced oblique fracture through the ramus of the
left mandible with moderate thickening of the left masticator
spaces soft tissues medial and lateral to the fracture.
2. No acute cervical spine abnormalities.

CT maxface from OSH showing minimally displaced left mandibular
angle fracture extending to the left mandibular body, old
fracture of the left maxillary sinus floor, and fractured tooth
#11

 
Brief Hospital Course:
The patient was admitted to the General Surgical Service on ___ 
for evaluation and treatment of a left mandibular fracture.  
OMFS was consulted, and the patient underwent open reduction and 
internal fixation of left angle mandible fracture via intraoral 
approach, with intraoperative placement of maxillomandibular 
fixation
using IMF screws which went well without complication (reader 
referred to the Operative Note for details). After a brief, 
uneventful stay in the PACU, the patient arrived on the floor 
tolerating sips, on IV fluids, and oral analgesia for pain 
control.  The patient was hemodynamically stable.
.
Pain was well controlled. Diet was progressively advanced as 
tolerated to a full liquid diet with good tolerability. The 
patient voided without problem. During this hospitalization, the 
patient ambulated early and frequently, was adherent with 
respiratory toilet and incentive spirometry, and actively 
participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.
.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a full 
liquid diet, ambulating, voiding without assistance, and pain 
was well controlled.  The patient was discharged home without 
services. The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan. He had follow-up scheduled in the ___ 
clinic and would remain on a full liquid no chew diet until 
then. 

 
Medications on Admission:
-amlodipine 5 mg tablet oral
1 tablet(s) Once Daily

-lisinopril 40 mg tablet oral
1 tablet(s) Once Daily

-allopurinol ___ mg tablet oral
1 tablet(s) Once Daily 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
2.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
RX *chlorhexidine gluconate 0.12 % 15mL twice a day Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: DC morphine
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*25 Tablet Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
RX *polyethylene glycol 3350 17 gram 1 powder(s) by mouth once a 
day Disp #*14 Packet Refills:*0 
6.  Allopurinol ___ mg PO DAILY  
7.  amLODIPine 5 mg PO DAILY  
8.  Lisinopril 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Displaced left mandibular angle fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after an altercation and were found 
to have a left mandibular fracture. You were taken to the 
operating room with the Oral Maxillary Facial Surgeons (___) 
and underwent ORIF of the left mandible. You tolerated this 
well. They are recommending a full liquid diet for 1 week and 
follow-up in the outpatient clinic. 

The Occupational Therapists saw you for a cognitive evaluation. 
They are recommending you follow-up in the outpatient Concussion 
Clinic since you are at risk for post-concussive syndrome. 

___ recommendations:
- Full liquid diet x 1 week (until ___
- Soft foods until follow up visit (on ___
- Maintain oral hygiene, brush teeth 2x/day
- Chlorhexidine Oral Rinse BID
- Warm salt water rinses after meals
- Sutures will dissolve on their own

You are medically clear for discharge. Please note the 
following:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___